US04963590
3-(4-Hydroxy-3-methoxy-5-nitrophenyl)-1-(3,4,5-trimethoxyphenyl)prop-2-en-1-one
The procedure described in Example 8 was repeated by using 2.0 g of 4-hydroxy-3-methoxy-5-nitrobenzaldehyde and 2.1 g of 3',4',5'-trimethoxyacetophenone. Yield 2.2 g (57%), m.p. 123°-125° C.

reactant | 4-hydroxy-3-methoxy-5-nitrobenzaldehyde | 2.0 g | OC1=C(C=C(C=O)C=C1[N+](=O)[O-])OC | C8H7NO5
reactant | 3',4',5'-trimethoxyacetophenone | 2.1 g | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
product | 3-(4-Hydroxy-3-methoxy-5-nitrophenyl)-1-(3,4,5-trimethoxyphenyl)prop-2-en-1-one | OC1=C(C=C(C=C1[N+](=O)[O-])C=CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)OC | C19H19NO8
